US04064347
2,7-bis[4-(3-azabicyclo[3.2.2]nonan-3-yl)butyryl]fluorene
A mixture of 11.25g (0.03 mole) of 2,7-bis(4-chlorobutyryl)fluorene, 30.1g (0.24 mole) of 3-azabicyclo[3.2.2]nonane and 10.0g (0.06 mole) of potassium iodide in 200 ml butanone is heated at reflux with stirring for 3 days. The reaction mixture was poured into 1000 ml of water, and the resulting solid precipitate filtered and recrystallized from chloroform-acetone to yield the desired product.

reactant | 2,7-bis(4-chlorobutyryl)fluorene | 0.03 mole, 11.25g | ClCCCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(CCCCl)=O | C21H20Cl2O2
reactant | 3-azabicyclo[3.2.2]nonane | 0.24 mole, 30.1g | C12CNCC(CC1)CC2 | C8H15N
reactant | potassium iodide | 0.06 mole, 10.0g | [I-].[K+]
reactant | water | 1000 ml | O | H2O
solvent | butanone | 200 ml | CC(CC)=O | C4H8O
product | 2,7-bis[4-(3-azabicyclo[3.2.2]nonan-3-yl)butyryl]fluorene | C12CN(CC(CC1)CC2)CCCC(=O)C2=CC=1CC3=CC(=CC=C3C1C=C2)C(CCCN2CC1CCC(C2)CC1)=O | C37H48N2O2
